US04550107
(g) 3-Chloro-4-(chloroacetyl)-1-methyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one
First, 3-chloro-1-methyl-1,4,9,10-tetrahydropyrrolo[3,2-b]-[1,5]benzodiazepin-10-one (1.7 g, 6.86 mmol), is refluxed for 1 hour in a mixture with acetonitrile (50 ml) and chloroacetyl chloride (4.0 ml, 52.9 mmol). The mixture is concentrated in vacuo, the residue is taken up in water (20 ml) and filtered and the solid residue is chromatographed using dichloromethane/cyclohexane/ethyl acetate (1:2:1 v/v) as eluant. A wine-red solid is isolated from the eluate, yielding colorless crystals (1.4 g) of mp. 284°-285° C. (D) after purification with tert.butyl methyl ether.

reactant | 3-chloro-1-methyl-1,4,9,10-tetrahydropyrrolo[3,2-b]-[1,5]benzodiazepin-10-one | 6.86 mmol, 1.7 g | ClC1=CN(C2=C1NC1=C(NC2=O)C=CC=C1)C | C12H10ClN3O
reactant | chloroacetyl chloride | 52.9 mmol, 4.0 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-Chloro-4-(chloroacetyl)-1-methyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one | 1.4 g | ClC1=CN(C2=C1N(C1=C(NC2=O)C=CC=C1)C(CCl)=O)C | C14H11Cl2N3O2
